US05885999
d) N-[(1-t-Butoxycarbonylpiperidin-4-yl)methyl]-N-phenylmethanesulfonamide
Methanesulfonyl chloride (0.77 mL, 1.13 g, 9.9 mmol) was added dropwise to a stirred, cooled (0° C.) solution of N-phenyl-1-t-butoxycarbonylpiperidine-4-methylamine (2.61 g, 9 mmol) and pyridine (1.09 mL, 1.07 g, 13.5 mmol) in dichloromethane (50 mL) and the mixture was stirred at room temperature for 16 h. The mixture was cooled in ice and 4-dimethylaminopyridine (220 mg, 1.8 mmol), pyridine (1.09 mL, 1.07 g, 13.5 mmol) and methanesulfonyl chloride (0.77 mL, 1.13 g, 9.9 mmol) were added. The mixture was stirred at room temperature for 24 h. The solvent was evaporated under reduced pressure, aqueous sodium hydrogen carbonate (saturated, 50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×50 mL), aqueous sodium hydrogen carbonate (saturated, 50 mL) and brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane (2:1, 30 mL) to give the title compound as a colorless solid (2.96 g, 89%), δH (250 MHz, CDCl3) 7.46-7.31 (5H, m), 4.06 (2H, m), 3.56 (2H, d, J 7.2 Hz), 2.85 (3H, s), 2.60 (2H, m), 1.71 (2H, m), 1.57 (1H, m), 1.43 (9H, s), and 1.05 (2H, m).

reactant | Methanesulfonyl chloride | 9.9 mmol, 0.77 mL, 1.13 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-phenyl-1-t-butoxycarbonylpiperidine-4-methylamine | 9 mmol, 2.61 g | C1(=CC=CC=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O2
reactant | pyridine | 13.5 mmol, 1.09 mL, 1.07 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 13.5 mmol, 1.09 mL, 1.07 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 9.9 mmol, 0.77 mL, 1.13 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.8 mmol, 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[(1-t-Butoxycarbonylpiperidin-4-yl)methyl]-N-phenylmethanesulfonamide | 2.96 g, 89% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(S(=O)(=O)C)C1=CC=CC=C1 | C18H28N2O4S
